US06410732B2
A mixture containing 5.0 g of acridan (0.027 mol), 186 mg of Pd(OAc)2 (8.2×10−4 mol), 186 mg of tri-t-butylphosphine (8.2×10−4 mol), 3.97 g of sodium t-butoxide (0.041 mol), and 6.12 g of 1-bromo-2,6-dimethylbenzene (0.033 mol) in 70 mL of dry toluene was stirred under argon at room temperature for 16 h. Since TLC analysis still showed the presence of starting material, the reaction mixture was heated at 85° C. for 3 h. The reaction mixture was cooled, filtered and the precipitate was washed with diethyl ether. The filtrate was passed through a 2″ plug of celite and concentrated to a brown solid. The crude product was chromatographed on silica gel with 5%-20% CH2Cl2 in hexanes to afford 5.1 g (66.2%) of N-(2,6-dimethylphenyl)acridan.

reactant | acridan | 0.027 mol, 5.0 g | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
reactant | sodium t-butoxide | 0.041 mol, 3.97 g | CC(C)([O-])C.[Na+]
reactant | 1-bromo-2,6-dimethylbenzene | 0.033 mol, 6.12 g | BrC1=C(C=CC=C1C)C | C8H9Br
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 8.2×10−4 mol, 186 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-t-butylphosphine | 8.2×10−4 mol, 186 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | N-(2,6-dimethylphenyl)acridan | 5.1 g, 66.2% | CC1=C(C(=CC=C1)C)N1C=2C=CC=CC2CC2=CC=CC=C12 | C21H19N
